US07199244B2
Preparation XVII—4-(tert-butyl-dimethyl-silanyloxy)-chroman-8-carbaldehyde
Butyllithium was added to an Et2O (80 mL) solution of tert-butyl-(chroman-4-yloxy)-dimethyl-silane (6.21 g, 23.5 mmol) at −80° C. After stirring the mixture at 3° C. for 15 h, DMF (10 mL) was added at 0° C. Following a 30 min stirring at RT, the reaction was quenched with saturated NH4Cl solution. The reaction was diluted with Et2O (200 mL) and washed with brine. The organic phase was dried over MgSO41 filtered, and concentrated in vacuo to provide the crude compound (40% conversion by 1H NMR) which was purified by column chromatography (silica, 0 to 10% ether in hexane) to provide the title compound.

reactant | Butyllithium | C(CCC)[Li]
reactant | Et2O | 80 mL | CCOCC | C4H10O
reactant | tert-butyl-(chroman-4-yloxy)-dimethyl-silane | 23.5 mmol, 6.21 g | C(C)(C)(C)[Si](C)(C)OC1CCOC2=CC=CC=C12 | C15H24O2Si
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(tert-butyl-dimethyl-silanyloxy)-chroman-8-carbaldehyde | C(C)(C)(C)[Si](OC1CCOC2=C(C=CC=C12)C=O)(C)C | C16H24O3Si
